Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fatigue, anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a past medical 
history of type-2 DM, hypertension, stage IV CKD, CAD s/p 
distant MI and bare metal stent, stroke, recent unprovoked DVTs 
on Coumadin, and recent upper GI bleeding, who was sent to ___ 
by her physician for anemia (Hgb 6.5).

The patient was admitted to ___ in ___ with unprovoked 
bilateral lower extremity DVTs. She was started on heparin as an 
inpatient, but anticoagulation was complicated by severely 
elevated PTT (>150) and upper GI bleed. Endoscopy was notable 
for significant erythema, superficial ulceration, and gastritis 
without active bleeding. She was placed on BID PPI prophylaxis. 
She was eventually bridged to Coumadin for a planned 6 month 
course. Her INR is managed by her rehab facility, and she is 
followed by Dr. ___ in ___ clinic. 

For the last two weeks she has noted increasing fatigue along 
with shortness of breath, exertional sub-sternal chest pain 
relieved with rest, and symmetrical lower extremity swelling. 
During this period she reports that her appetite remained good, 
and he bowel function was normal. She denies bloody stools or 
dark stool. On ___ she presented to her PCP office from rehab 
reporting increasing shortness of breath and fatigue. She was 
found to have a Hgb of 6.5, with an unconcerning CXR. She was 
sent to the ___ ED.

In the ED, her initial vitals were T: 97.5 P: 60 BP: 156/76 RR: 
16 SPO2: 100% RA. Exam was notable for guiac negative stool. 
Imaging was notable for:
 "1. Nonocclusive deep vein thrombosis of one of the paired 
posterior tibial veins bilaterally. The extent of thrombus 
bilaterally has decreased. No new deep venous thrombosis in 
either lower extremity. 
 2. Right complex ___ cyst."

The patient was transfused with 2 units of pRBCs, with 
appropriate increase in Hgb to 9.0. Following transfusion, a 
repeat CXR was notable for pulmonary edema with bilateral 
pleural effusions. She was given 20mg PO Lasix and 40mg IV Lasix 
in the ED. The decision was made to admit the patient for anemia 
and flash pulmonary edema. 

On the floor, vitals notable for T: 97.9 BP: 154/75 P: 65 R: 20 
O2: 99RA FSBG: 76. She reports no acute complaints, and that her 
shortness of breath has resolved. She denies chest pain, 
dizziness, lightheadedness.
 
Past Medical History:
- hypertension  
- diabetes  
- hx CVA (cerebellar-medullary stroke in ___  
- CAD (hx of MI in ___ BMS to circumflex and POBA ___  
- peripheral arterial disease- claudication, followed by 
vascular, managed conservatively
- stage IV CKD (baseline 2.1-2.6)  
- GERD/esophageal rings
 
Social History:
___
Family History:
Niece had some sort of cancer. Father died in his ___ due to 
lung disease.  Mother died in her ___ due to an unknown cause.  
No early CAD or sudden cardiac death. No other known history of 
cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T: 97.9 BP: 154/75 P: 65 R: 20 O2: 99RA FSBG: ___ 
General: Overweight woman, alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated  
Lungs: Crackles to the mid-lungs bilaterally  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs or 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing or cyanosis. 2+ 
pitting edema in dependent areas to the buttocks  
Skin: no rashes noted
Neuro: ___ strength in deltoids, biceps, triceps, wrist 
extensors, finger extensors, hip flexors, hamstrings, 
quadriceps, gastrocs, tibialis anterior, bilaterally. Sensation 
intact bilaterally. 
PSYCH: Alert and fully oriented; normal mood and affect.
sometimes slow to respond and responding with repetitive answers
but otherwise appropriate

DISCHARGE PHYSICAL EXAM:
VS: T: 97.6 BP: 150s-160s/70s-80s P: 60s-70s RR: 18 SPO2: 100RA
General: Overweight woman, alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated  
Lungs: Clear to auscultation bilaterally
CV: Regular rate and rhythm, normal S1 + S2, no murmurs or 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing or cyanosis. 1+ 
pitting edema in shins bilaterally
Skin: no rashes noted

 
Pertinent Results:
LABORATORY STUDIES ON ADMISSION
=============================================
___ 12:30PM   WBC-4.4 RBC-2.03* HGB-6.5* HCT-20.6* 
MCV-102*# MCH-32.0 MCHC-31.6* RDW-16.3* RDWSD-59.6*
___ 12:30PM   ___
___ 12:30PM   ALBUMIN-4.1 CALCIUM-9.2 PHOSPHATE-4.7* 
IRON-61
___ 12:30PM   calTIBC-303 FERRITIN-155* TRF-233
___ 12:30PM   UREA N-42* CREAT-2.3* SODIUM-142 
POTASSIUM-4.7 CHLORIDE-109* TOTAL CO2-23 ANION GAP-15
___ 04:50PM   LD(___)-247 TOT BILI-0.2
___ 04:50PM   HAPTOGLOB-188

IMAGING:  
==============================================
LENIs (___)
1. Nonocclusive deep vein thrombosis of one of the paired 
posterior tibial veins bilaterally.  The extent of thrombus 
bilaterally has decreased.  No new deep venous thrombosis in 
either lower extremity. 
2. Right complex ___ cyst. 

CXR (___): 
1. New mild pulmonary edema with persistent small bilateral 
pleural effusions. 
2. Severe cardiomegaly is likely accentuated due to low lung 
volumes and patient positioning. 

CXR (___):
As compared to ___, the lung volumes have slightly 
decreased.  Signs of mild overinflation and moderate pleural 
effusions persist.  Moderate cardiomegaly.  Elongation of the 
descending aorta.  No pneumonia. 

LABORAROTY STUDIES ON DISCHARGE
==============================================
___ 05:45AM BLOOD WBC-3.4* RBC-2.93* Hgb-8.9* Hct-28.0* 
MCV-96 MCH-30.4 MCHC-31.8* RDW-17.5* RDWSD-59.7* Plt ___
___ 05:45AM BLOOD ___ PTT-30.6 ___
___ 05:45AM BLOOD Glucose-116* UreaN-41* Creat-2.1* Na-144 
K-4.0 Cl-108 HCO3-25 AnGap-15
___ 04:50PM BLOOD LD(LDH)-247 TotBili-0.2
___ 05:45AM BLOOD Calcium-9.4 Phos-4.7* Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a past medical 
history of type-2 DM, hypertension, stage IV CKD, CAD s/p 
distant MI and bare metal stent, stroke, recent unprovoked DVTs 
on Coumadin, and recent upper GI bleed, who was sent to ___ by 
her physician for anemia. 

# Anemia: 
Patient presented with Hgb of 6.5, down from her recent baseline 
of ~7.5 since her ___ hospitalization. Upon presentation she 
had a new macrocytic anemia. Hemolysis labs were negative. She 
received two units of packed red cells with an appropriate rise 
in her Hgb to 9.0. Stool was guiac negative, with no reports of 
dark stool or blood in stool. Her hemoglobin remained stable at 
this level, there was no overt bleeding, and her stool was guiac 
negative. After transfusion the patient reported significant 
improvement in her shortness of breath and fatigue. Given her 
history of gastritis and diverticulosis, a GI bleed was believed 
responsible for her anemia. Patient should receive an 
EGD/colonoscopy as an outpatient. 

# Acute exacerbation of heart failure with preserved ejection 
fraction: 
The patient was also found to be slightly volume overloaded, and 
was treated with 2x40mg IV Lasix, with good urine output and 
symptomatic improvement. Her pulmonary edema and peripheral 
edema resolved with diuresis.

CHRONIC ISSUES:
# Gastic ulceration: 
Continued on home pantoprazole BID

# Hypertension:
Continued on home nifedipine, carvadilol, lisinopril.

# Stage IV Chronic Kidney Disease: 
Creatinine remained at baseline (b/l Cr 2.1-2.6) during 
admission.

TRANSITIONAL ISSUES
======================
--Patient's Anemia is thought to be due to slow GI bleed given 
history of gastritis and diverticulosis. Please schedule 
EGD/colonoscopy within the next month
--Patient continued on Coumadin for bilateral DVTs; please 
continue to weigh the risks and benefits of anticoagulation 
given history of bleed.
--Discharge weight: 167.7

# CONTACT: ___ ___
# CODE: full, confirmed
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol ___ mg PO EVERY OTHER DAY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Carvedilol 12.5 mg PO BID 
5. Lisinopril 40 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. NIFEdipine CR 30 mg PO BID 
8. Vitamin D ___ UNIT PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Gabapentin 100 mg PO QHS neuropathic pain 
11. Pantoprazole 40 mg PO Q12H 
12. Senna 8.6 mg PO BID constipation 
13. Warfarin 4 mg PO 3X/WEEK (___) 
14. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
15. Furosemide 20 mg PO DAILY 
16. Polyethylene Glycol 17 g PO DAILY 
17. Acetaminophen 325-650 mg PO Q6H:PRN pain or fever 
18. Warfarin 3 mg PO 4X/WEEK (___) 
19. 70/30 30 Units Dinner

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain or fever 
RX *acetaminophen 325 mg ___ tablet(s) by mouth Q6H:PRN Disp 
#*120 Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0
4. Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
6. Gabapentin 100 mg PO QHS neuropathic pain 
RX *gabapentin 100 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0
7. Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 capsule(s) by mouth daily Disp #*30 Capsule 
Refills:*0
9. NIFEdipine CR 30 mg PO BID 
RX *nifedipine 30 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin [Nitrostat] 0.3 mg 1 tablet(s) sublingually 
Q5MIN:PRN Disp #*10 Tablet Refills:*0
11. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0
12. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
daily Refills:*0
13. Senna 8.6 mg PO BID constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
14. Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
15. Warfarin 4 mg PO 3X/WEEK (___) 
RX *warfarin 4 mg 1 tablet(s) by mouth 3X/WEEK Disp #*30 Tablet 
Refills:*0
16. Warfarin 3 mg PO 4X/WEEK (___) 
RX *warfarin 3 mg 1 tablet(s) by mouth 4X/WEEK Disp #*30 Tablet 
Refills:*0
17. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
18. Allopurinol ___ mg PO EVERY OTHER DAY 
RX *allopurinol ___ mg 1 tablet(s) by mouth EVERY OTHER DAY Disp 
#*30 Tablet Refills:*0
19. 70/30 30 Units Dinner
RX *insulin NPH and regular human [Humulin 70/30 KwikPen] 100 
unit/mL (70-30) 30 units SC Take 30 Units before DINER Disp #*2 
Package Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Anemia
Congestive heart failure exacerbation

Secondary diagnosis:
Hypertension 
DMII on insulin 
Coronary artery disease 
Stage IV chronic kidney disease
Deep vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you. You were admitted to the 
hospital with fatigue, chest pain, and shortness of breath. You 
were found to have too few red blood cells (anemia). We gave you 
blood, and your symptoms improved. Additionally, you were found 
to have too much fluid in your legs and lungs. We treated you 
with a diuretic, which helped eliminate the fluid. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Sincerely,
Your ___ Team
 
Followup Instructions:
___